2184-10-21 06:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - vanc level checked, redosed
   - HD line pulled by IR at bedside
   - received phenylephrine instead of levophed for BP, now back on
   levophed
   - wound consult placed
   - bowel regimen increased
   Allergies:
   Penicillins
   Unknown;
   Sulfonamides
   Unknown;
   Tetracyclines
   Abdominal pain;
   Last dose of Antibiotics:
   Cefipime
   Vancomycin
   Ciprofloxacin
   Infusions:
   Norepinephrine - 0.35 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-21**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.5
   HR: 84 (61 - 92) bpm (v-paced)
   BP: 97/45(64) {84/38(54) - 129/57(82)} mmHg
   RR: 24 (16 - 30) insp/min
   SpO2: 90% - 93%
   Heart rhythm: V Paced
    CVP: 20 (18 - 27)mmHg
   Total In:
                                                                  4,689 mL
                                                                    357 mL
   PO:
                                                                    230 mL
   TF:
   IVF:
                                                                  4,459 mL
                                                                    357 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                     10 mL
   Urine:
                                                                    100 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,589 mL
                                                                    347 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 5L
   SpO2: 90%
   ABG: 7.39/38/63/24/-1(12a)    7.36/35/87/21/94% (8a)
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR no murmurs auscultated.
   Chest: HD catheter removed, site CDI, diffuse erythema over chest
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: No(t) Cyanosis, No(t) Clubbing, Mild erythema on RLE >
   LLE.  R arm w/swelling on the dorsal aspect of the distal forearm
   around arterial line ?infiltration?
   Neurologic: Attentive, Follows simple commands, Oriented to person,
   knows in hospital but not [**Hospital1 19**].  Conversational but difficult to
   understand/not making sense.
   Labs / Radiology
   148 K/uL
   10.3 g/dL
   136 mg/dL
   2.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   30 mg/dL
   102 mEq/L
   137 mEq/L
   32.0 %
   16.0 K/uL
        [image002.jpg]
                            [**2184-10-19**]  11:28 PM
                            [**2184-10-20**]  06:27 AM
                            [**2184-10-20**]  10:39 AM
                            [**2184-10-20**]  01:35 PM
                            [**2184-10-21**]  12:16 AM
   WBC
   11.4
   16.0
   Hct
   27.9
   32.0
   Plt
   113
   148
   Cr
   2.2
   2.5
   TCO2
   22
   22
   24
   Glucose
   135
   136
   Other labs:
   PT / PTT / INR:40.2/45.3/4.4
   Ca++:7.7 mg/dL, Mg++:2.8 mg/dL, PO4:3.3mg/dL
   BCx [**10-19**]: 2 w/Staph Aureus (no sensitivites reported yet)
   BCx [**10-20**]: pending
   HD catheter tip [**10-20**]: pending
   UA [**10-20**]: RBC, WBC, Bacteria
   UCx [**10-20**]: pending
   Assessment and Plan
   A/P: [**Age over 90 **] yo female with PMH of ESRD presenting with sepsis physiology,
   on pressors.
   .
   #1 sepsis: Most likely source is HD catheter which was removed
   yesterday.  Other possible sources include urine (positive UA), and,
   less likely, cellulitis.  2 BCx from [**10-19**] w/Staph aureus. Repeat BCx
   sent and pending, UCx pending. Catheter tip culture pending.  Currently
   requiring levophed, but weaning.
   - vanc, cefepime, ciprofloxacin
   - MAP goal > 65, UOP goal > 20 -> continue to wean levophed as
   tolerated
   - currently no respiratory compromise
   - CVP above goal, avoid further IVF if possible given ESRD on HD
   - f/u cultures and sensitivities
   .
   #2 ESRD: s/p HD 2d ago.  Has received IVF for pressure, electrolytes
   remain wnl. Now w/no HD access
   - for temporary HD catheter by IR and +/- dialysis tomorrow based on
   pressure/electrolytes
   - follow pm lytes
   .
   #3 anemia: below baseline. Mildly guaiac positive stool, not grossly
   bloody. Hct improving.
   - follow HCT
   - cont guaiac stools
   #4 hypercoaguability: Coumadin d/c since admission. Increasing INR,
   likely due to delayed effects of coumadin, interaction with
   antibiotics, low urine output due to ESRD.  INR now to 4.4 from 2.8
   yesterday. Needs HD access, better IV access (now with femoral line 48h
   old), needs INR to be higher for procedures to be done.
   - Vitamin K today
   - re-check INR in pm, tomorrow am
   #5 Access: Patient with femoral central line from ED ([**10-19**]), has been
   in approx 48 hours.  Do not want to place central line in
   neck/subclavian b/c L side needed for HD catheter. Should have PICC but
   concerns b/c of positive BCx and high INR.  D/W IR, who will place a
   picc tomorrow in IR
   .
   #6 afib, tachy-brady: s/p ppm. Afib with normal rate on EKG. s/p
   pacemaker.
   - holding metoprolol while septic
   - hypercoaguable now so Coumadin held.
   - tele
   .
   # Hypothyroidism: Cont levothyroxine
   .
   # HTN: holding antihypertensives while septic
   .
   # FEN: replete lytes prn, diet as tolerated
   .
   # PPx: ranitidine, sc heparin, bowel regimen
   .
   # Code: full
   .
   # Dispo: ICU care
   .
   # Communication: daughter, HCP and power of attorney [**Name (NI) 3725**] [**Name (NI) 2650**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-10-19**] 10:22 PM
   Arterial Line - [**2184-10-20**] 02:04 AM
   22 Gauge - [**2184-10-20**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-10-21 11:58:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Dialysis catheter D/C'd yesterday
   Patient with pressors continued as Levophed--patient was transiently on
   She has continued pressor requirement
   She had desaturations to 88% on 5 lpm
   24 Hour Events:
 URINE CULTURE - At [**2184-10-20**] 12:14 PM
 BLOOD CULTURED - At [**2184-10-20**] 01:15 PM
   from HD line
 DIALYSIS CATHETER - STOP [**2184-10-20**] 05:45 PM
   -Patient 4.5 liters positive in fluid balance across the day
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfonamides
   Unknown;
   Tetracyclines
   Abdominal pain;
   Last dose of Antibiotics:
   Cefipime - [**2184-10-20**] 05:20 AM
   Vancomycin - [**2184-10-20**] 07:00 PM
   Infusions:
   Norepinephrine - 0.32 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-21**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 85 (61 - 92) bpm
   BP: 137/74(99) {81/38(54) - 137/74(99)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   CVP: 30 (18 - 30)mmHg
   Total In:
                                                                  4,689 mL
                                                                    672 mL
   PO:
                                                                    230 mL
   TF:
   IVF:
                                                                  4,459 mL
                                                                    672 mL
   Blood products:
   Total out:
                                                                    100 mL
                                                                     60 mL
   Urine:
                                                                    100 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,589 mL
                                                                    612 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.36/35/86.[**Numeric Identifier 143**]/22/-4
   PaO2 / FiO2: 218
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   159 K/uL
   112 mg/dL
   3.0 mg/dL
   22 mEq/L
   4.7 mEq/L
   40 mg/dL
   103 mEq/L
   139 mEq/L
   30.0 %
   13.1 K/uL
        [image002.jpg]
                            [**2184-10-19**]  11:28 PM
                            [**2184-10-20**]  06:27 AM
                            [**2184-10-20**]  10:39 AM
                            [**2184-10-20**]  01:35 PM
                            [**2184-10-21**]  12:16 AM
                            [**2184-10-21**]  05:34 AM
                            [**2184-10-21**]  08:16 AM
   WBC
   11.4
   16.0
   13.1
   Hct
   27.9
   32.0
   30.0
   Plt
   113
   148
   159
   Cr
   2.2
   2.5
   3.0
   TCO2
   22
   22
   24
   21
   Glucose
   135
   136
   112
   Other labs: PT / PTT / INR:40.2/45.3/4.4, Differential-Neuts:86.3 %,
   Band:8.0 %, Lymph:7.3 %, Mono:6.0 %, Eos:0.4 %, Lactic Acid:1.8 mmol/L,
   Ca++:7.7 mg/dL, Mg++:2.8 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: 7.39/38/63-->improve to PO2=87
   Imaging: CXR-Patient with catheter removed and no change in infitrates
   or effusions.
   Microbiology: Blood Cultures--Staph Aureus with sensitivities pending
   Assessment and Plan
   [**Age over 90 **] yo female admit with sepsis.  She has had continued requirement for
   pressors through to today with impressive extent of positive cultures
   following initial admission.  Concerning across the night was the
   presence of transient hypoxemia which may be a consequence of both
   Acute Lung Injury in combination with hydrostatic pulmonary edema.
   1)SHOCK, SEPTIC--Important findings of significant blood culture
   findings of S. Aureus on blood cultures
   -Cipro/Cefepime/Vanco
   -Levophed weaning today
   -IVF bolus as needed
   -Will need central access to maintain therapy
without need for central
   pressure measurements and with concern for preserving left side in its
   entirety for a dialysis catheter will move to trial PICC therapy for
   dosing of pressors with right sided placement.
   -Catheter related blood stream infection being covered with Vanco
   -Possible urinary source is being Rx
d with Cipro/Cefepime to allow
   double coverage of gram negative organisms
   -[**Month (only) 51**] need to evaluate for adrenal insufficiency if unable to wean
   pressors
   2)Chronic Renal Failure
   -Goal for HD catheter tomorrow and HD tomorrow
   -Electrolytes and acid base status reasonable at this time and will
   continue to monitor
   3)Coagulopathy
   -Coumadin held, in the setting of antibiotic administration have
   elevation in INR
   -Will correct INR with Vitamin K and will provide single does to
   minimize bleeding around time of procedure
   -FFP as needed with renal line placement and will give vitamin K today
   ICU Care
   Nutrition: Advance to po diet with good tolerance of clears
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-10-19**] 10:22 PM
will change to PICC today to allow
   persistent central access for pressors in the absence of need for rapid
   fluid bolus
   Arterial Line - [**2184-10-20**] 02:04 AM
   22 Gauge - [**2184-10-20**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2184-10-22 05:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Continues to require Levophed
   Per renal and IR services, is to have temporary HD catheter placed this
   morning with PICC line and plan for HD this afternoon
   Pt delerius overnight, tried Zyprexa 2.5mg X 2 without effect.
   Received Vitamin K 5mg PO, 5mg IV, 10mg IV X 2 to reverse INR
   Allergies:
   Penicillins
   Unknown;
   Sulfonamides
   Unknown;
   Tetracyclines
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2184-10-20**] 07:00 PM
   Cefipime - [**2184-10-21**] 10:00 PM
   Infusions:
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-22**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.7
   HR: 81 (73 - 92) bpm
   BP: 98/46(67) {81/40(55) - 137/74(99)} mmHg
   RR: 25 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 24 (18 - 30)mmHg
   Total In:
                                                                  1,336 mL
                                                                    265 mL
   PO:
   TF:
   IVF:
                                                                  1,336 mL
                                                                    265 mL
   Blood products:
   Total out:
                                                                    110 mL
                                                                     50 mL
   Urine:
                                                                    110 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,226 mL
                                                                    215 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.39/36/78.[**Numeric Identifier 181**]/21/-2
   Physical Examination
   General Appearance: Well nourished, mildly anxious appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR no murmurs auscultated.
   Chest: HD catheter removed, site CDI, diffuse erythema over chest
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: No(t) Cyanosis, No(t) Clubbing, Mild erythema on RLE >
   LLE.  R arm w/swelling on the dorsal aspect of the distal forearm
   around arterial line ?infiltration?
   Neurologic: Attentive, Follows simple commands, Oriented to person,
   knows in hospital but not [**Hospital1 19**].  Conversational but difficult to
   understand/not making sense.
   Labs / Radiology
   152 K/uL
   9.0 g/dL
   153 mg/dL
   3.3 mg/dL
   21 mEq/L
   4.7 mEq/L
   49 mg/dL
   104 mEq/L
   140 mEq/L
   27.9 %
   12.8 K/uL
        [image002.jpg]
                            [**2184-10-19**]  11:28 PM
                            [**2184-10-20**]  06:27 AM
                            [**2184-10-20**]  10:39 AM
                            [**2184-10-20**]  01:35 PM
                            [**2184-10-21**]  12:16 AM
                            [**2184-10-21**]  05:34 AM
                            [**2184-10-21**]  08:16 AM
                            [**2184-10-22**]  04:00 AM
                            [**2184-10-22**]  04:21 AM
   WBC
   11.4
   16.0
   13.1
   12.8
   Hct
   27.9
   32.0
   30.0
   27.9
   Plt
   113
   148
   159
   152
   Cr
   2.2
   2.5
   3.0
   3.3
   TCO2
   22
   22
   24
   21
   23
   Glucose
   135
   136
   112
   153
   Other labs: PT / PTT / INR:26.2/43.1/2.6, Differential-Neuts:86.3 %,
   Band:8.0 %, Lymph:7.3 %, Mono:6.0 %, Eos:0.4 %, Lactic Acid:1.8 mmol/L,
   Ca++:7.3 mg/dL, Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   A/P: [**Age over 90 **] yo female with PMH of ESRD presenting with sepsis physiology,
   on pressors.
   .
   #1 sepsis: Most likely source is HD catheter which was removed
   yesterday.  Other possible sources include urine (positive UA), and,
   less likely, cellulitis.  2 BCx from [**10-19**] w/Staph aureus. Repeat BCx
   sent and pending, UCx pending. Catheter tip culture pending.  Currently
   requiring levophed, but weaning.
   - vanc, cefepime, ciprofloxacin
   - MAP goal > 65, UOP goal > 20 -> continue to wean levophed as
   tolerated
   - currently no respiratory compromise
   - CVP above goal, avoid further IVF if possible given ESRD on HD
   - f/u cultures and sensitivities
   .
   #2 ESRD: s/p HD 2d ago.  Has received IVF for pressure, electrolytes
   remain wnl. Now w/no HD access
   - for temporary HD catheter by IR and +/- dialysis tomorrow based on
   pressure/electrolytes
   - follow pm lytes
   .
   #3 anemia: below baseline. Mildly guaiac positive stool, not grossly
   bloody. Hct improving.
   - follow HCT
   - cont guaiac stools
   #4 hypercoaguability: Coumadin d/c since admission. Increasing INR,
   likely due to delayed effects of coumadin, interaction with
   antibiotics, low urine output due to ESRD.  INR now to 4.4 from 2.8
   yesterday. Needs HD access, better IV access (now with femoral line 48h
   old), needs INR to be higher for procedures to be done.
   - Vitamin K today
   - re-check INR in pm, tomorrow am
   #5 Access: Patient with femoral central line from ED ([**10-19**]), has been
   in approx 48 hours.  Do not want to place central line in
   neck/subclavian b/c L side needed for HD catheter. Should have PICC but
   concerns b/c of positive BCx and high INR.  D/W IR, who will place a
   picc tomorrow in IR
   .
   #6 afib, tachy-brady: s/p ppm. Afib with normal rate on EKG. s/p
   pacemaker.
   - holding metoprolol while septic
   - hypercoaguable now so Coumadin held.
   - tele
   .
   # Hypothyroidism: Cont levothyroxine
   .
   # HTN: holding antihypertensives while septic
   .
   # FEN: replete lytes prn, diet as tolerated
   .
   # PPx: ranitidine, sc heparin, bowel regimen
   .
   # Code: full
   .
   # Dispo: ICU care
   .
   # Communication: daughter, HCP and power of attorney [**Name (NI) 3725**] [**Name (NI) 2650**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-10-19**] 10:22 PM
   Arterial Line - [**2184-10-20**] 02:04 AM
   22 Gauge - [**2184-10-20**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-10-22 09:09:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   patient with continued Levophed requirement
   Continued agitation overnight
   Coagulopathy persists and Vitamin K given with INR decrease to 2.2
   Cultures of blood and catheter tip positive with GPC's likely S. Aureus
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Sulfonamides
   Unknown;
   Tetracyclines
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2184-10-20**] 07:00 PM
   Cefipime - [**2184-10-21**] 10:00 PM
   Infusions:
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-22**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 83 (73 - 88) bpm
   BP: 118/52(78) {87/45(60) - 137/74(99)} mmHg
   RR: 24 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 30 (18 - 30)mmHg
   Total In:
                                                                  1,336 mL
                                                                    390 mL
   PO:
   TF:
   IVF:
                                                                  1,336 mL
                                                                    390 mL
   Blood products:
   Total out:
                                                                    110 mL
                                                                     55 mL
   Urine:
                                                                    110 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,226 mL
                                                                    335 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.39/36/78.[**Numeric Identifier 181**]/21/-2
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : , Diminished: )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   152 K/uL
   153 mg/dL
   3.3 mg/dL
   21 mEq/L
   4.7 mEq/L
   49 mg/dL
   104 mEq/L
   140 mEq/L
   27.9 %
   12.8 K/uL
        [image002.jpg]
                            [**2184-10-19**]  11:28 PM
                            [**2184-10-20**]  06:27 AM
                            [**2184-10-20**]  10:39 AM
                            [**2184-10-20**]  01:35 PM
                            [**2184-10-21**]  12:16 AM
                            [**2184-10-21**]  05:34 AM
                            [**2184-10-21**]  08:16 AM
                            [**2184-10-22**]  04:00 AM
                            [**2184-10-22**]  04:21 AM
   WBC
   11.4
   16.0
   13.1
   12.8
   Hct
   27.9
   32.0
   30.0
   27.9
   Plt
   113
   148
   159
   152
   Cr
   2.2
   2.5
   3.0
   3.3
   TCO2
   22
   22
   24
   21
   23
   Glucose
   135
   136
   112
   153
   Other labs: PT / PTT / INR:23.0/40.9/2.2, Differential-Neuts:86.3 %,
   Band:8.0 %, Lymph:7.3 %, Mono:6.0 %, Eos:0.4 %, Lactic Acid:1.8 mmol/L,
   Ca++:7.3 mg/dL, Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Microbiology: [**10-20**], [**10-19**]--GPC's seen
   [**10-21**] cultures are without growth to date
   Assessment and Plan
   [**Age over 90 **] yo female with history of renal failure and recent catheter
   placement now with clear catheter related blood stream infection with
   blood and catheter tip showing gram positive cocci.  She has had
   persistent pressor requirement despite antibiotics and fluids being
   given.  She had evolution of signifcant hypoxemia and peripheral edema
   limiting further extensive fluid loading in the setting of sepsis.
   What is active is need to establish safe and optimal access for long
   term Rx.  The tensions are risk with coagulopathy and bacteremia vs.
   need to establish access for dialysis and pressors in most reasonable
   time frame.
   1)Sepsis--Are treating catheter related blood stream infection and
   covering broadly at outset
   -Cefepime/Cipro and will move to CTX given negative evidence of
   pulmonary infection and urine culture findings
   -Vanco by level and level pending for today--will redose as needed
   -Levophed need persists and will look to wean today if
   possible--minimal decrease over yesterday
   -Will continue to monitor sensitivies
   -With risk of worsening hypoxemia will continue to bias slightly
   towards pressors rather than continued excess fluids continued.
   -PICC today as are not trending CVP, CvO2 with clear goals surrounding
   IVF administration established and reasonable response to pressors
   2)Coagulopathy
   -Vitamin K given to maximum
   -FFP today for control of residual INR issues with peri-procedure
   period
   -Will work to minimize risk of bleeding peri-procedure
   3)Chronic Renal Failure
   -Temporary [**Age over 90 3789**] today
   -Goal is for clearance with limited ultrafiltration which is reasonable
   -Additional issues to be managed as defined in the resident note of
   this date.
   -
 DYSPNEA (SHORTNESS OF BREATH)
 IMPAIRED SKIN INTEGRITY
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 SHOCK, SEPTIC
 URINARY TRACT INFECTION (UTI)
   ICU Care
   Nutrition: Will be NPO today for procedure, will return to po diet
   following procedure, Maintenance fluids if prolonged NPO status
   maintained
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-10-19**] 10:22 PM
have left [**Year (4 digits) 3789**] in place to allow
   optimal choices for HD [**Last Name (LF) 3789**], [**First Name3 (LF) **] move to PICC line this morning for
   pressors and intermittent fluid and move only to additional upper
   extremity CVL in the setting or right sided pacer and likely left sided
   HD [**First Name3 (LF) 3789**] for clinical decline given limitations on access
   Arterial Line - [**2184-10-20**] 02:04 AM
   22 Gauge - [**2184-10-20**] 03:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2184-10-23 05:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2184-10-22**] 12:14 PM
 ANGIOGRAPHY - At [**2184-10-22**] 02:25 PM
   L HD line placed in IJ vein w/VIP port
 DIALYSIS CATHETER - START [**2184-10-22**] 03:00 PM
 MULTI LUMEN - STOP [**2184-10-22**] 05:35 PM
     * Given lots of vitamin K, INR to <2 yesterday
     * temporary HD catheter placed
     * had HD
     * picc placed by IR
     * pm zyprexa held b/c family felt AMS was more due to lack of
       dialysis. as prn.
   Allergies:
   Penicillins
   Unknown;
   Sulfonamides
   Unknown;
   Tetracyclines
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2184-10-20**] 07:00 PM
   Cefipime - [**2184-10-21**] 10:00 PM
   Ceftriaxone - [**2184-10-22**] 11:00 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-23**] 05:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.5
   HR: 76 (57 - 94) bpm
   BP: 123/55(79) {96/43(62) - 176/173(237)} mmHg
   RR: 21 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
    CVP: 30 (24 - 30)mmHg
   Total In:
                                                                    985 mL
                                                                    154 mL
   PO:
   TF:
   IVF:
                                                                    985 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                    140 mL
                                                                     40 mL
   Urine:
                                                                    140 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    845 mL
                                                                    114 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, somnolent but rouseable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR no murmurs auscultated.
   Chest: HD catheter removed, site CDI, diffuse erythema over chest
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: No(t) Cyanosis, No(t) Clubbing, Mild erythema on RLE >
   LLE.  R arm w/swelling on the dorsal aspect of the distal forearm
   around arterial line ?infiltration?
   Neurologic: Attentive, Follows simple commands, Oriented to person,
   knows in hospital but not [**Hospital1 19**].  Conversational but difficult to
   understand/not making sense.
   Labs / Radiology
   153 K/uL
   9.0 g/dL
   91 mg/dL
   2.4 mg/dL
   27 mEq/L
   3.6 mEq/L
   30 mg/dL
   102 mEq/L
   140 mEq/L
   27.5 %
   9.7 K/uL
        [image002.jpg]
                            [**2184-10-19**]  11:28 PM
                            [**2184-10-20**]  06:27 AM
                            [**2184-10-20**]  10:39 AM
                            [**2184-10-20**]  01:35 PM
                            [**2184-10-21**]  12:16 AM
                            [**2184-10-21**]  05:34 AM
                            [**2184-10-21**]  08:16 AM
                            [**2184-10-22**]  04:00 AM
                            [**2184-10-22**]  04:21 AM
                            [**2184-10-23**]  04:34 AM
   WBC
   11.4
   16.0
   13.1
   12.8
   9.7
   Hct
   27.9
   32.0
   30.0
   27.9
   27.5
   Plt
   113
   148
   159
   152
   153
   Cr
   2.2
   2.5
   3.0
   3.3
   TCO2
   22
   22
   24
   21
   23
   Glucose
   135
   136
   112
   153
   Other labs: PT / PTT / INR:17.7/36.8/1.6,  Ca++:7.3 mg/dL, Mg++:1.9
   mg/dL, PO4:2.6 mg/dL
   Last positive blood culture: [**10-20**]: GPCs; Vanco level 15.5
   Assessment and Plan
   A/P: [**Age over 90 **] yo female with PMH of ESRD presenting with sepsis physiology,
   on pressors.
   .
   #1 Sepsis: Most likely source is HD catheter which was removed.  Tip
   and 2BCx from [**10-19**] are MRSA.  BC from [**10-20**] are positive for GPCs .
   UCx pending.  Currently still requiring levophed for BP support.
   - On vanc, redose today & check level again tomorrow morning.   Stop
   cefepime (cipro previously stopped)
   - abx day #1 for vanc, cefepime = [**2184-10-19**]
   - MAP goal > 65, UOP goal > 20 -> continue to wean levophed as
   tolerated
   - CVP above goal, avoid further IVF if possible given ESRD on HD
   - f/u cultures and sensitivities
   - ECHO to check for endocarditis
   .
   #2 ESRD: s/p HD [**10-22**] after temp HD catheter placed.
   - plan for repeat HD [**10-24**]
   - f/u with renal
   .
   #3 Altered mental status: Patient is very sleepy today, but is
   rousable.  She received fentanyl 25 mg IV yesterday with her catheter
   placement.  Its effect may be prolonged secondary to renal failure.
   Will continue to monitor mental status.  No diet currently.
   #4 anemia: below baseline. Mildly guaiac positive stool, not grossly
   bloody. Hct improving.
   - follow HCT
   - cont guaiac stools
   #5 hypercoaguability: Coumadin d/c since admission.  Vitamin K given
   [**10-22**] to reverse INR for catheter placement.  INR now 1.6.
   - cont. to monitor INR
   - will hold coumadin for now given potential need for repeat procedure
   - will not start heparin gtt given low risk for stroke within the next
   few days.
   #6 Access:
   - PICC line placed by IR
   - fem line removed
   .
   #7 afib, tachy-brady: s/p ppm. Afib with normal rate on EKG. s/p
   pacemaker.
   - holding metoprolol while septic
   - holding Coumadin d/t procedures
   - tele
   .
   # Hypothyroidism: Cont levothyroxine
   .
   # HTN: holding antihypertensives while septic
   .
   # FEN: replete lytes prn, diet as tolerated
   .
   # PPx: ranitidine, sc heparin, bowel regimen
   .
   # Code: full
   .
   # Dispo: ICU care
   .
   # Communication: daughter, HCP and power of attorney [**Name (NI) 3725**] [**Name (NI) 2650**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-10-20**] 02:04 AM
   PICC Line - [**2184-10-22**] 12:14 PM
   Dialysis Catheter - [**2184-10-22**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-10-24 05:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2184-10-23**] 09:29 AM
   - vanc redosed with am vanc trough ordered
   - unable to wean levophed
   - somnolent most of the day but was alert in the evening briefly
   - ECHO ordered
   - CTX stopped
   Allergies:
   Penicillins
   Unknown;
   Sulfonamides
   Unknown;
   Tetracyclines
   Abdominal pain;
   Last dose of Antibiotics:
   Cefipime - [**2184-10-21**] 10:00 PM
   Ceftriaxone - [**2184-10-23**] 10:15 AM
   Vancomycin - [**2184-10-23**] 10:40 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-10-24**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-24**] 05:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.4
C (95.7
   HR: 65 (61 - 76) bpm
   BP: 111/50(72) {95/39(57) - 130/55(81)} mmHg
   RR: 20 (16 - 37) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                    952 mL
                                                                    345 mL
   PO:
                                                                     60 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    892 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                    125 mL
                                                                     37 mL
   Urine:
                                                                    125 mL
                                                                     37 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    827 mL
                                                                    308 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.38/46/92.[**Numeric Identifier 132**]/25/0
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Well nourished, somnolent but rouseable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR no murmurs auscultated.
   Chest: HD catheter removed, site CDI, diffuse erythema over chest
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: No(t) Cyanosis, No(t) Clubbing, Mild erythema on RLE >
   LLE.  R arm w/swelling on the dorsal aspect of the distal forearm
   around arterial line ?infiltration?
   Neurologic: Attentive, Follows simple commands, Oriented to person,
   knows in hospital but not [**Hospital1 19**].  Conversational but difficult to
   understand/not making sense.
   Labs / Radiology
   143 K/uL
   9.2 g/dL
   143 mg/dL
   2.7 mg/dL
   25 mEq/L
   4.7 mEq/L
   37 mg/dL
   103 mEq/L
   137 mEq/L
   27.3 %
   9.7 K/uL
        [image002.jpg]
                            [**2184-10-20**]  10:39 AM
                            [**2184-10-20**]  01:35 PM
                            [**2184-10-21**]  12:16 AM
                            [**2184-10-21**]  05:34 AM
                            [**2184-10-21**]  08:16 AM
                            [**2184-10-22**]  04:00 AM
                            [**2184-10-22**]  04:21 AM
                            [**2184-10-23**]  04:34 AM
                            [**2184-10-23**]  05:24 PM
                            [**2184-10-24**]  02:30 AM
   WBC
   13.1
   12.8
   9.7
   9.7
   Hct
   30.0
   27.9
   27.5
   27.3
   Plt
   159
   152
   153
   143
   Cr
   3.0
   3.3
   2.4
   2.7
   TCO2
   22
   22
   24
   21
   23
   28
   Glucose
   112
   153
   91
   143
   Other labs: PT / PTT / INR:16.3/35.8/1.5, Differential-Neuts:86.3 %,
   Band:8.0 %, Lymph:7.3 %, Mono:6.0 %, Eos:0.4 %, Lactic Acid:1.3 mmol/L,
   Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   A/P: [**Age over 90 **] yo female with PMH of ESRD presenting with sepsis physiology,
   on pressors.
   .
   #1 Sepsis: Most likely source is HD catheter which was removed.  Tip
   and 2BCx from [**10-19**] are MRSA.  BC from [**10-20**] are positive for GPCs .
   UCx pending.  Currently still requiring levophed for BP support.
   - On vanc, redose today & check level again tomorrow morning.   Stop
   cefepime (cipro previously stopped)
   - abx day #1 for vanc, cefepime = [**2184-10-19**]
   - MAP goal > 65, UOP goal > 20 -> continue to wean levophed as
   tolerated
   - CVP above goal, avoid further IVF if possible given ESRD on HD
   - f/u cultures and sensitivities
   - ECHO to check for endocarditis
   .
   #2 ESRD: s/p HD [**10-22**] after temp HD catheter placed.
   - plan for repeat HD [**10-24**]
   - f/u with renal
   .
   #3 Altered mental status: Patient is very sleepy today, but is
   rousable.  She received fentanyl 25 mg IV yesterday with her catheter
   placement.  Its effect may be prolonged secondary to renal failure.
   Will continue to monitor mental status.  No diet currently.
   #4 anemia: below baseline. Mildly guaiac positive stool, not grossly
   bloody. Hct improving.
   - follow HCT
   - cont guaiac stools
   #5 hypercoaguability: Coumadin d/c since admission.  Vitamin K given
   [**10-22**] to reverse INR for catheter placement.  INR now 1.6.
   - cont. to monitor INR
   - will hold coumadin for now given potential need for repeat procedure
   - will not start heparin gtt given low risk for stroke within the next
   few days.
   #6 Access:
   - PICC line placed by IR
   - fem line removed
   .
   #7 afib, tachy-brady: s/p ppm. Afib with normal rate on EKG. s/p
   pacemaker.
   - holding metoprolol while septic
   - holding Coumadin d/t procedures
   - tele
   .
   # Hypothyroidism: Cont levothyroxine
   .
   # HTN: holding antihypertensives while septic
   .
   # FEN: replete lytes prn, diet as tolerated
   .
   # PPx: ranitidine, sc heparin, bowel regimen
   .
   # Code: full
   .
   # Dispo: ICU care
   .
   # Communication: daughter, HCP and power of attorney [**Name (NI) 3725**] [**Name (NI) 2650**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-10-20**] 02:04 AM
   PICC Line - [**2184-10-22**] 12:14 PM
   Dialysis Catheter - [**2184-10-22**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2184-10-25 05:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
          Had HD yesterday.  HD machine temporarily broke down, was
   replaced.  Levophed stopped yesterday.
          Pt complains of increased pain on R foot/toe.
          Less agitated overnight than in the past.
          Witnessed aspiration of rice with dinner.
          Changed diet to NPO for now, ordered CXR for AM to assess
   further.
          Deferred speech and swallow for now.
   Allergies:
   Penicillins
   Unknown;
   Sulfonamides
   Unknown;
   Tetracyclines
   Abdominal pain;
   Antibiotics:
   Ceftriaxone
   Vancomycin
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2184-10-24**] 08:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: right great toe pain
   Flowsheet Data as of  [**2184-10-25**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 64 (63 - 77) bpm
   BP: 95/34(51) {87/34(51) - 128/56(79)} mmHg
   RR: 21 (20 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  1,698 mL
                                                                     57 mL
   PO:
                                                                  1,040 mL
             TF:
   IVF:
                                                                    658 mL
                                                                     57 mL
   Blood products:
   Total out:
                                                                    107 mL
                                                                      0 mL
   Urine:
                                                                    107 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,591 mL
                                                                     57 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.42/40/76.[**Numeric Identifier 126**]/26/0 ([**10-24**] at 5:52)
   Physical Examination
   General Appearance: Well nourished, alert, oriented to place but not
   time.
   Eyes / Conjunctiva: PERRL. Anicteric sclera
   Head, Ears, Nose, Throat: NCAT
   Cardiovascular: RRR no murmurs auscultated.
   Chest: Temporary HD catheter in place, dressing c/d/I with some
   erythema on chest wall skin, no swelling
   Respiratory / Chest: CTA b/l w/quiet breath sounds
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: B/L DP pulses 2+. R MTP of the great toe w/erythema, ttp,
   pain w/flexion/extension.
   Neurologic: Attentive, Follows simple commands, Oriented to person,
   knows in hospital but not [**Hospital1 19**].  Conversational but difficult to
   understand at times.
   Labs / Radiology
   99 K/uL
   8.5 g/dL
   129 mg/dL
   2.1 mg/dL
   26 mEq/L
   3.5 mEq/L
   29 mg/dL
   105 mEq/L
   138 mEq/L
   26.4 %
   6.8 K/uL
        [image002.jpg]
                            [**2184-10-21**]  12:16 AM
                            [**2184-10-21**]  05:34 AM
                            [**2184-10-21**]  08:16 AM
                            [**2184-10-22**]  04:00 AM
                            [**2184-10-22**]  04:21 AM
                            [**2184-10-23**]  04:34 AM
                            [**2184-10-23**]  05:24 PM
                            [**2184-10-24**]  02:30 AM
                            [**2184-10-24**]  05:52 AM
                            [**2184-10-25**]  04:08 AM
   WBC
   13.1
   12.8
   9.7
   9.7
   6.8
   Hct
   30.0
   27.9
   27.5
   27.3
   26.4
   Plt
   159
   152
   153
   143
   99
   Cr
   3.0
   3.3
   2.4
   2.7
   2.1
   TCO2
   24
   21
   23
   28
   27
   Glucose
   112
   153
   91
   143
   129
   Other labs:
   PT / PTT / INR:16.0/37.1/1.4,
   Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Lactate 1.3
   BCx [**10-19**] x2,
 [**10-20**] positive w/MRSA
 [**10-20**], [**10-21**], [**10-22**], [**10-23**],
   [**10-25**] pending.
   HD cath tip [**10-19**] positive
   UCx [**10-19**]  G+ bacteria, yeast.
   CXR: Moderate b/l pleural effusion, R>L, continues to increase,
   obscuring cardiac silhouette which is least moderately enlarged and the
   lung bases.
   Assessment and Plan
   A/P: [**Age over 90 **] yo female with PMH of ESRD presenting with sepsis physiology,
   weaned off pressors.
   .
   #1 Sepsis: Most likely source is HD catheter which was removed.  Tip
   and 2BCx from [**10-19**] are MRSA.  BC from [**10-20**] are positive for MRSA.
   Rest of cultures are negative so far.
   - continue Vanc (dosed after HD)
   - abx day #1 for vanc, = [**2184-10-19**]
 needs 2 weeks of vanco for MRSA
   sepsis.
   - BP stable, will pull a-line today.
   - ECHO negative for endocarditis.
   .
   #2 ESRD: s/p HD [**10-22**]
   - plan for HD tomorrow
   - permanent HD cath today b/c of continued negative BCx
   - f/u with renal recommendations
   .
   #3 Altered mental status: Waxes and wanes, likely contributing factors
   are sepsis, ESRD and ICU delirium with baseline dementia. Improved
   today.
   #4 anemia: below baseline. Mildly guaiac positive stool, not grossly
   bloody. Hct improving.
   - follow HCT
   - cont guaiac stools
   - reticulocyte count 1.2
   #5 hypercoaguability: Was on Coumadin for afib. Coumadin d/c since
   admission.  Vitamin K given [**10-22**] to reverse INR for catheter
   placement.  INR now 1.6.
   - cont. to monitor INR
   - re-start coumadin at 2.5mg
   - monitor INR to adjust dose
   #6 Access:
   - PICC line placed by IR
   - permanent HD catheter placed today.
   .
   #7 Toe pain: c/w gout.
   - podiatry
   - foot xray
   - call nephrology re treatment of gout (can give colchicine w/ESRD?)
   .
   #8afib, tachy-brady: s/p ppm. Afib with normal rate on EKG. s/p
   pacemaker.
   - holding metoprolol as patient
s rate and BP have been wnl
   - re-start coumadin at 2.5mg
   .
   # Hypothyroidism: Cont levothyroxine
   .
   # HTN: holding antihypertensives while septic
   .
   # FEN: replete lytes prn, diet as tolerated
   .
   # PPx: ranitidine, sc heparin, bowel regimen
   .
   # Code: full
   .
   # Dispo: stable, appropriate for floor.
   .
   # Communication: daughter, HCP and power of attorney [**Name (NI) 3725**] [**Name (NI) 2650**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-10-20**] 02:04 AM
   PICC Line - [**2184-10-22**] 12:14 PM
   Dialysis Catheter - [**2184-10-22**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   FEN: Patient
s aspiration event occurred while patient lying supine and
   eating rice.  Patient safe to eat thickened liquids and pureed food if
   patient is fully awake and sitting up.  Speech and Swallow evaluation
   has been ordered, patient will be evaluated today or tomorrow.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1216**] [**Last Name (NamePattern1) 3824**], MD
   on:[**2184-10-25**] 19:30 ------

2184-10-25 12:29:00 Physician Attending Progress Note
Chief Complaint: septic shock from MRSA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo women with ESRD on HD, admitted with MRSA line sepsis of HD
   Line.  Now improved
   24 Hour Events:
   Aspiration event yesterday.
   Allergies:
   Penicillins
   Unknown;
   Sulfonamides
   Unknown;
   Tetracyclines
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2184-10-23**] 10:15 AM
   Vancomycin - [**2184-10-24**] 06:45 PM
   Infusions:
   Other ICU medications:
   Other medications:
   vitamin D
   levoxyl
   lipitor
   celexa
   protonix
   hep s/q
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Musculoskeletal: left toe pain
   Heme / Lymph: Anemia
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Pain: [**4-6**] Moderate
   Flowsheet Data as of  [**2184-10-25**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 65 (64 - 77) bpm
   BP: 91/39(49) {84/34(47) - 92/52(63)} mmHg
   RR: 21 (18 - 32) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  1,698 mL
                                                                    121 mL
   PO:
                                                                  1,040 mL
             TF:
   IVF:
                                                                    658 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                    107 mL
                                                                     50 mL
   Urine:
                                                                    107 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,591 mL
                                                                     71 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l bases, Diminished:
   bases b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace, left MCP of large toe is red
   inflamed, pain on motion
   Musculoskeletal: left toe tenderness.
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name and hospital, but not which hospital,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   99 K/uL
   129 mg/dL
   2.1 mg/dL
   26 mEq/L
   3.5 mEq/L
   29 mg/dL
   105 mEq/L
   138 mEq/L
   26.4 %
   6.8 K/uL
        [image002.jpg]
                            [**2184-10-21**]  12:16 AM
                            [**2184-10-21**]  05:34 AM
                            [**2184-10-21**]  08:16 AM
                            [**2184-10-22**]  04:00 AM
                            [**2184-10-22**]  04:21 AM
                            [**2184-10-23**]  04:34 AM
                            [**2184-10-23**]  05:24 PM
                            [**2184-10-24**]  02:30 AM
                            [**2184-10-24**]  05:52 AM
                            [**2184-10-25**]  04:08 AM
   WBC
   13.1
   12.8
   9.7
   9.7
   6.8
   Hct
   30.0
   27.9
   27.5
   27.3
   26.4
   Plt
   159
   152
   153
   143
   99
   Cr
   3.0
   3.3
   2.4
   2.7
   2.1
   TCO2
   24
   21
   23
   28
   27
   Glucose
   112
   153
   91
   143
   129
   Other labs: PT / PTT / INR:16.0/37.1/1.4, Differential-Neuts:86.3 %,
   Band:8.0 %, Lymph:7.3 %, Mono:6.0 %, Eos:0.4 %, Lactic Acid:1.3 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Microbiology: recent blood cultures have been negative.
   Assessment and Plan
   Chronic Renal failure:  To get tunnel cath for HD today.  HD scheduled
   for tomorrow.
   MRSA bacteremia/sepsis:  Continue vanco for total two weeks.
   Anemia
   AFib:  was supratherapeutic on coumadin, low [**Country 3888**] score, can restart
   at  a future point.
   S+S eval.
   Toe inflammation:  likely gout, can check XRAY.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2184-10-20**] 02:04 AM
   PICC Line - [**2184-10-22**] 12:14 PM
   Dialysis Catheter - [**2184-10-22**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes